US06030970
c) Ethyl 5-bromo-1-n-butyl-1H-imidazole-4-carboxylate
To a solution of ethyl 5-amino-1-n-butyl-1H-imidazole-4-carboxylate (0.05 g, 0.24 mmol) in bromoform (5 mL) was added butyl nitrite (0.10 mL, 0.71 mmol). The reaction mixture was stirred at reflux for 5 h. After an aqueous work up, extracting with ethyl acetate, the combined organic extracts were washed with brine and dried (Na2SO4). After removing the solvent under reduced pressure, flash column chromatography (1:1 ether/hexane) of the residue gave the title compound as an oil (0.03 g, 46%). 1H NMR (250 MHz, CDCl3)δ 7.50 (b, 1H), 4.41 (q, 2H), 3.95 (t, 2H), 1.70 (quintet, 2H), 1.40 (m, 5H), 1.00 (t, 3H).

reactant | ethyl 5-amino-1-n-butyl-1H-imidazole-4-carboxylate | 0.24 mmol, 0.05 g | NC1=C(N=CN1CCCC)C(=O)OCC | C10H17N3O2
reactant | butyl nitrite | 0.71 mmol, 0.10 mL | N(=O)OCCCC | C4H9NO2
reactant | bromoform | 5 mL | C(Br)(Br)Br | CHBr3
product | Ethyl 5-bromo-1-n-butyl-1H-imidazole-4-carboxylate | 0.03 g, 46% | BrC1=C(N=CN1CCCC)C(=O)OCC | C10H15BrN2O2
